US06077851
1,2-Dihydro-4-hydroxy-5-methoxy-1-methyl-2-oxo-quinoline-3-carboxylic acid
While cooling, 10 ml of conc. hydrochloric acid was added to 30 ml of acetic anhydride. To this solution, 1,2-dihydro-4-hydroxy-5-methoxy-1-methyl-2-oxo-quinoline-3-carboxylic acid ethyl ester (10.5 g, 38 mmol) was added and the mixture heated at 80° C. for 14 hours. The mixture was cooled to room temperature and the crystalline product was filtered off, washed with cold methanol and dried to give the title compound (7.2 g), yield 77%.

reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | 1,2-dihydro-4-hydroxy-5-methoxy-1-methyl-2-oxo-quinoline-3-carboxylic acid ethyl ester | 38 mmol, 10.5 g | C(C)OC(=O)C=1C(N(C2=CC=CC(=C2C1O)OC)C)=O | C14H15NO5
solvent | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1,2-Dihydro-4-hydroxy-5-methoxy-1-methyl-2-oxo-quinoline-3-carboxylic acid | 7.2 g, yield 77% | OC1=C(C(N(C2=CC=CC(=C12)OC)C)=O)C(=O)O | C12H11NO5
